US06673811B1
A solution of dimethylformamide dimethyl acetal (4 g, 0.033 mol) in dry DMF (10 mL) is added to a solution of (5-methyl-3-nitro-pyridin-2yl)-acetic acid ethyl ester (5 g, 0.022 mol) in dry DMF (20 mL) to give a red solution. This solution is heated at 60° C. under reduced pressure for 3 h. DMF and other volatile components are evaporated under reduced pressure to obtain 3-dimethylamino-2-(5-methyl-3-nitro-pyridin-2-yl)-acrylic acid ethyl ester as an viscous oil which was used without further purification.

reactant | dimethylformamide dimethyl acetal | 0.033 mol, 4 g | COC(N(C)C)OC | C5H13NO2
reactant | (5-methyl-3-nitro-pyridin-2yl)-acetic acid ethyl ester | 0.022 mol, 5 g | C(C)OC(CC1=NC=C(C=C1[N+](=O)[O-])C)=O | C10H12N2O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-dimethylamino-2-(5-methyl-3-nitro-pyridin-2-yl)-acrylic acid ethyl ester | C(C)OC(C(=CN(C)C)C1=NC=C(C=C1[N+](=O)[O-])C)=O | C13H17N3O4
